US07279486B2
Step 1. 1-(2-Bromophenyl)ethanol
To a stirred solution of 1-(2-bromophenyl)ethanone (5 g, 25.1 mmol) in methanol (50 mL) was added sodium borohydride (1.43 g, 37.7 mmol) at room temperature and the mixture was stirred for 24 h at the same temperature. The reaction mixture was quenched by the addition of water, and concentrated to give a colorless residue. The crude material was partitioned between diethyl ether and water, and then the organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by column chromatography on silica gel (100 g) eluting with hexane/ethyl acetate (5/1) to afford 5.4 g (quant.) of the title compound as a colorless oil:

reactant | 1-(2-bromophenyl)ethanone | 25.1 mmol, 5 g | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
reactant | sodium borohydride | 37.7 mmol, 1.43 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 1-(2-Bromophenyl)ethanol | BrC1=C(C=CC=C1)C(C)O | C8H9BrO
